US04436742
7.6 g (50 mM) 4-hydroxy-2,1,3-benzthiadiazole were dissolved in 100 ml. dioxan and mixed with 50 ml. epichlorohydrin and 55 ml. 1 N aqueous sodium hydroxide solution and the reaction mixture stirred for 4-5 hours at 55°-60° C. When the reaction was finished, the reaction mixture was diluted with 300 ml. water and extracted with chloroform. The dried chloroform solution was evaporated and the residue was chromatographed on a silica gel column (elution agent: chloroform). The residue obtained after evaporation of the elution fractions crystallized upon treatment with diisopropyl ether. There were obtained 7.2 g (69% of theory) 4-(2,3-epoxypropyloxy)-2,1,3-benzthiadiazole, which had a melting point of 65°-67° C.

reactant | 4-hydroxy-2,1,3-benzthiadiazole | 50 mM, 7.6 g | OC1=CC=CC2=NSN=C21 | C6H4N2OS
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 4-(2,3-epoxypropyloxy)-2,1,3-benzthiadiazole | 7.2 g, 69% | O1C(COC2=CC=CC3=NSN=C32)C1 | C9H8N2O2S
